US07112682B2
Prepare a solution of 6.4 kg (54.6 mol) indole in 25 kg NMP. Add to this solution the HOSA and the KOtBu solutions as prepared above over a period of 180 min simultaneously and proportionally over mass flow meters and maintain the reaction mixture at 15° C. After the addition is completed, add to the resulting dark brown suspension 4.3 L (239 mol) water, 9.7 kg (161.5 mol) acetic acid (100%) and 5.3 kg (91.3 mol) propionaldehyde. Stir the mixture at 20° C. for ˜1 h, until completion of the reaction. The reaction mixture is then worked-up by adding 180 L water and 21 kg n-heptane. Unwanted salts precipitate from the reaction mixture. The resulting suspension is filtered and the phases are separated. The water phase is again extracted 4-times with 21 kg n-heptane. The combined organic phases are washed two times with 45 L water. The resulting brown heptane-solution is evaporated to a 15–25% solution. This results in 6.3–7.0 kg N-(propylidene)-1H-indol-1-amine (yield 67–74%, corrected for 19.7–24.1% assay) as a brown liquid.

reactant | indole | 54.6 mol, 6.4 kg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | acetic acid | 161.5 mol, 9.7 kg | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 91.3 mol, 5.3 kg | C(CC)=O | C3H6O
reactant | NMP | 25 kg | CN1CCCC1=O | C5H9NO
solvent | n-heptane | 21 kg | CCCCCCC | C7H16
solvent | water | 180 L | O | H2O
product | N-(propylidene)-1H-indol-1-amine | 6.3–7.0 kg, yield 67–74% | C(CC)=NN1C=CC2=CC=CC=C12 | C11H12N2
